US08207177B2
Step f: {(1R,2R,3S,4R)-2,3-Dihydroxy-4-[4-(phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin 7-yl]cyclopentyl}methyl sulfamate (Compound I-53)
{(3aR,4R,6R,6aS)-2,2-Dimethyl-6-[4-(phenylsulfanyl)-7H-pyrrolo[2,3-d]-pyrimidin-7-yl]tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methyl sulfamate (14.4 mg, 30.2 mmol) was stirred in 1.00 mL of 90% trifluoroacetic acid in water for 3 h at rt. The solvent was then removed in vacuo and the resulting oil was purified by silica gel chromatography eluting with a gradient of 60 to 100% EtOAc in hexanes to afford the title compound (7.50 mg, 57%). 1H NMR (400 MHz, CD3OD, δ): 8.45 (s, 1H), 7.66-7.36 (m, 2H), 7.51-7.41 (m, 4H), 5.92 (d, J=3.8 Hz, 1H), 5.13-5.06 (m, 1H), 4.58-4.55 (dd, J=3.8, 9.0 Hz, 1H), 4.42-4.37 (dd, J=8.0, 9.8 Hz, 1H), 4.18-4.14 (m, 2H), 2.92-2.82 (m, 1H), 2.24-2.08 (m, 2H) ppm. LC/MS: Rt=1.38 min, ES+ 437 (FA standard).

reactant | {(3aR,4R,6R,6aS)-2,2-Dimethyl-6-[4-(phenylsulfanyl)-7H-pyrrolo[2,3-d]-pyrimidin-7-yl]tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methyl sulfamate | 30.2 mmol, 14.4 mg | S(N)(OC[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1SC1=CC=CC=C1)(=O)=O | C21H24N4O5S2
solvent | trifluoroacetic acid | 1.00 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | {(1R,2R,3S,4R)-2,3-Dihydroxy-4-[4-(phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin 7-yl]cyclopentyl}methyl sulfamate | 7.50 mg, 57% | S(N)(OC[C@@H]1[C@H]([C@H]([C@@H](C1)N1C=CC2=C1N=CN=C2SC2=CC=CC=C2)O)O)(=O)=O | C18H20N4O5S2
